US07723367B2
1-Bromo-4,5-difluoro-2-trifluoromethoxy-benzene
A mixture of 2-bromo-4,5-difluoro-phenol (1.0 g, 4.8 mmol), 1,1,1-trifluoro-2-iodo-ethane (706 mg, 7.2 mmol) and CsF (882 mg, 5.8 mmol) in DMSO (20 mL) was heated at 120° C. overnight. The reaction mixture was poured into water, and extracted with ethyl acetate (2×). The solvent was removed, and the resulting residue was chromatographed using hexane/ethyl acetate (10:1) to give the title compound (697 mg, 50%). 1HNMR (500 MHz, CDCl3) δ ppm 4.36 (q, J=7.93 Hz, 2H) 6.85 (dd, J=10.98, 7.02 Hz, 1H) 7.43 (t, J=8.85 Hz, 1H).

reactant | 2-bromo-4,5-difluoro-phenol | 4.8 mmol, 1.0 g | BrC1=C(C=C(C(=C1)F)F)O | C6H3BrF2O
reactant | 1,1,1-trifluoro-2-iodo-ethane | 7.2 mmol, 706 mg | FC(CI)(F)F | C2H2F3I
reactant | CsF | 5.8 mmol, 882 mg | [F-].[Cs+]
reactant | water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 1-Bromo-4,5-difluoro-2-trifluoromethoxy-benzene | 697 mg, 50% | BrC1=C(C=C(C(=C1)F)F)OC(F)(F)F | C7H2BrF5O
